US03931177
3-(3-Amino-4-fluorobenzoyl)propionic acid was diazotised with sodium nitrite in sulphuric acid solution and the diazonium sulphate was decomposed in boiling sulphuric acid solution to give 3-(4-fluoro-3-hydroxybenzoyl)propionic acid.

reactant | 3-(3-Amino-4-fluorobenzoyl)propionic acid | NC=1C=C(C(=O)CCC(=O)O)C=CC1F | C10H10FNO3
reactant | sodium nitrite | N(=O)[O-].[Na+]
solvent | sulphuric acid | S(O)(O)(=O)=O | H2O4S
product | 3-(4-fluoro-3-hydroxybenzoyl)propionic acid | FC1=C(C=C(C(=O)CCC(=O)O)C=C1)O | C10H9FO4
